US04945098
1-Octadecylaminocarbonyloxy-3-[6-(3-thiazolio)hexanoyloxy]-2-methylenepropane bromide
1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane (from Preparation 9) (0.55 g) and thiazole (2.5 ml) were heated to 110° C. for 4 hours. The reaction mixture was evaporated to dryness in vacuo.

reactant | 1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | 0.55 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C29H54BrNO4
reactant | thiazole | 2.5 ml | S1C=NC=C1 | C3H3NS
product | 1-Octadecylaminocarbonyloxy-3-[6-(3-thiazolio)hexanoyloxy]-2-methylenepropane bromide | [Br-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCC[N+]1=CSC=C1)=O)=C | InChI=1S/C32H56N2O4S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-33-32(36)38-28-30(2)27-37-31(35)22-19-18-21-24-34-25-26-39-29-34;/h25-26,29H,2-24,27-28H2,1H3;1H
